US07276516B2
4-(3-Cyclopentyl-indazole-1-sulfonyl)-benzoic acid
Combine 4-(3-Cyclopentyl-indazole-1-sulfonyl)-benzoic acid methyl ester (2.045 g, 5.325 mmoles) in 50 ml of THF. Add 3 ml of 5 N NaOH and allow to stir for 15 hrs. Make the reaction acidic with HCl and extract into diethyl ether. Dry organic layer over MgSO4 and concentrate to isolate 1.243 g (Yield=63%) of the title compound: MS ES+ 369.47; MS ES− 369.46.

reactant | 4-(3-Cyclopentyl-indazole-1-sulfonyl)-benzoic acid methyl ester | 5.325 mmoles, 2.045 g | COC(C1=CC=C(C=C1)S(=O)(=O)N1N=C(C2=CC=CC=C12)C1CCCC1)=O | C20H20N2O4S
reactant | NaOH | 5 N, 3 ml | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-(3-Cyclopentyl-indazole-1-sulfonyl)-benzoic acid | 1.243 g, Yield=63% | C1(CCCC1)C1=NN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C19H18N2O4S
